US09428502B2
Compound 1.1. t-Butyl 4-(4-cyanophenyl)piperidine-1-carboxylate
Into a 500-mL three neck round-bottom flask, which was purged and maintained with an inert atmosphere of nitrogen, was placed a suspension of Zn (21.6 g, 330 mmol) in DMA (53 mL). A 7:5 v/v mixture of TMSCl/1,2-dibromoethane (5.8 mL) was added to the mixture drop-wise at a rate to maintain the temperature below 65° C. The mixture was stirred for an additional 10 min, then a solution of tert-butyl 4-iodopiperidine-1-carboxylate (68.7 g, 220 mmol) in DMA (122 mL) was added drop-wise at 40-45° C. and the mixture was stirred at the same temperature for 30 min. The mixture was cooled to room temperature and stirring was ceased to allow for the zinc powder to settle. Into another 500-mL round-bottom flask, which was purged and maintained with an inert atmosphere of nitrogen, was placed a mixture of 4-bromobenzonitrile (20 g, 110 mmol), CuI (2.1 g, 11 mmol), Pd(dppf)Cl2 (4.51 g, 5.5 mmol) and DMA (100 mL). The freshly prepared zinc reagent solution was decanted into an addition funnel and added drop-wise to the mixture at room temperature. The resulting mixture was stirred at 85° C. for 4 h, then cooled to 20° C. and diluted with methyl tert-butyl ether (500 mL) and carefully quenched with 1 M ammonium chloride (500 mL). The mixture was stirred at room temperature for 30 min and then filtered to remove solids. The organic layer was washed with saturated aqueous ammonium chloride (100 mL), followed by brine (3×100 mL), dried (Na2SO4), filtered, and concentrated under reduced pressure. The residue was purified by silica gel chromatography with ethyl acetate/petroleum ether (1:10) as the eluent to yield the title compound as a brown oil (20 g, crude) and used in the next step without additional purification.

reactant | TMSCl 1,2-dibromoethane | 5.8 mL | C[Si](C)(C)Cl.BrCCBr
reactant | tert-butyl 4-iodopiperidine-1-carboxylate | 220 mmol, 68.7 g | IC1CCN(CC1)C(=O)OC(C)(C)C | C10H18INO2
reactant | 4-bromobenzonitrile | 110 mmol, 20 g | BrC1=CC=C(C#N)C=C1 | C7H4BrN
solvent | DMA | 53 mL | CC(=O)N(C)C | C4H9NO
solvent | DMA | 122 mL | CC(=O)N(C)C | C4H9NO
catalyst | Zn | 330 mmol, 21.6 g | [Zn] | Zn
catalyst | CuI | 11 mmol, 2.1 g | [Cu]I
catalyst | Pd(dppf)Cl2 | 5.5 mmol, 4.51 g | C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl.[Fe+2]
solvent | DMA | 100 mL | CC(=O)N(C)C | C4H9NO
product | t-Butyl 4-(4-cyanophenyl)piperidine-1-carboxylate | 20 g | C(#N)C1=CC=C(C=C1)C1CCN(CC1)C(=O)OC(C)(C)C | C17H22N2O2
